US05358950
15.9 g of α-chloro-β-(2-chloroethyl)-4-methylcinnamaldehyde, prepared in B), and 22 g of sodium sulphide (9 H2O) are added to 200 ml of THF. A sufficient amount of water is added for the sodium sulphide to pass completely into solution, and the mixture is then heated to reflux for 3 hours, cooled and thereafter taken up with ether. The organic phase is separated after settling has taken place, washed with water, then dried over magnesium sulphate and evaporated under vacuum to give 13.5 g of 2-(4'methylphenyl)-4,5-dihydro-3-thiophenecarbaldehyde in the form of an oil which is used without further purification for the next step.

reactant | α-chloro-β-(2-chloroethyl)-4-methylcinnamaldehyde | 15.9 g | ClC(C=O)=C(C1=CC=C(C=C1)C)CCCl | C12H12Cl2O
reactant | sodium sulphide | 22 g | [S-2].[Na+].[Na+]
reactant | THF | 200 ml | C1CCOC1 | C4H8O
reactant | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 2-(4'methylphenyl)-4,5-dihydro-3-thiophenecarbaldehyde | 13.5 g | CC1=CC=C(C=C1)C=1SCCC1C=O | C12H12OS
